US06388084B1
A solution of N-[(1,1-dimethylethoxyl)carbonyl]-4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester (135 mg, 0.29 mmol) in 4 N HCl in dioxane (5 mL) was stirred for 2 hr and was concentrated. The residue was triturated with several portions of ether to give 4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride (120 mg, quant) as a white powder. LRMS-Electrospray: m/z positive ion 729, 2M+H (2 Br), 406 (M+H+CH3CN), 397 (M+H+CH3CN (1 Br)), 365 (M+H (1 Br)). HRMS: Obs. Mass 365.0504. Calcd. Mass 365.0501 (M+H).

reactant | N-[(1,1-dimethylethoxyl)carbonyl]-4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 0.29 mmol, 135 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Br)C)=O)=O | C21H25BrN2O5
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride | 120 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Br)C)=O)=O | InChI=1S/C16H17BrN2O3.ClH/c1-19-9-12(17)8-13(15(19)20)11-5-3-10(4-6-11)7-14(18)16(21)22-2;/h3-6,8-9,14H,7,18H2,1-2H3;1H/t14-;/m0./s1
